US04960798
To a solution of 98.5 g (0.43 moles) of ethyl 3-aminobenzenepropanoate hydrochloride in 1500 ml of methanol and 400 ml 37% aqueous formaldehyde (4.3 moles) was added 74 g (1.16 moles) of sodium cyanoborohydride. The reaction was allowed to stir overnight under a nitrogen atmosphere. After 425 ml (5.16 moles) of propionic acid were added, the reaction mixture was refluxed for 4.5 hours. The methanol was evaporated in vacuo and the residue was brought to pH 6.8 by 25% sodium hydroxide addition. The mixture was extracted with diethyl ether which was washed with water, brine solution and dried over anhydrous potassium carbonate. The ether was evaporated in vacuo and the residue was distilled in a Kugelrohr under reduced pressure to give 74.04 g of ethyl 3-dimethylaminobenzenepropanoate, mp 94°-98° C. (oxalate), (72.1% yield).

reactant | ethyl 3-aminobenzenepropanoate hydrochloride | 0.43 moles, 98.5 g | Cl.NC=1C=C(C=CC1)CCC(=O)OCC
reactant | formaldehyde | 4.3 moles, 400 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 1.16 moles, 74 g | C(#N)[BH3-].[Na+]
reactant | propionic acid | 5.16 moles, 425 ml | C(CC)(=O)O | C3H6O2
solvent | methanol | 1500 ml | CO | CH4O
product | ethyl 3-dimethylaminobenzenepropanoate | 74.04 g, 72.1% yield | CN(C=1C=C(C=CC1)CCC(=O)OCC)C | C13H19NO2
